* Noisy temperature switch Schmitt trigger
.include ../../lib/claw_opamps.lib
VRIPPLE sensor_raw temp_base SINE(0 80m 600)
VTEMP temp_base 0 PWL(0 2.0 50m 3.1 100m 2.0 150m 3.1 200m 2.0)
VCC vcc 0 5
RFLT sensor_raw sense 4.7k
CFILT sense 0 1u
RSENSE sense 0 1Meg
RIN sense cmp {RIN}
RHYS fan_en cmp {RHYS}
RTOP vcc ref 100k
RBOT ref 0 100k
CREF ref 0 100n
XU1 cmp ref vcc 0 fan_en CLAW_IDEAL_OPAMP
RLOAD fan_en 0 10k
.param RIN=100k
.param RHYS=1Meg
.param VREF=2.5
.param VOUT_H=4.8
.param VOUT_L=0.2
.param UPPER_TRIP=VREF*(1+RIN/RHYS)-VOUT_L*(RIN/RHYS)
.param LOWER_TRIP=VREF*(1+RIN/RHYS)-VOUT_H*(RIN/RHYS)
.tran 0 200m 0 20u
.meas TRAN turn_on_sensor FIND V(sense) WHEN V(fan_en)=2.5 RISE=1
.meas TRAN turn_off_sensor FIND V(sense) WHEN V(fan_en)=2.5 FALL=1
.meas TRAN hysteresis_width PARAM turn_on_sensor-turn_off_sensor
.meas TRAN expected_upper PARAM UPPER_TRIP
.meas TRAN expected_lower PARAM LOWER_TRIP
.meas TRAN fan_on_time TRIG V(fan_en) VAL=2.5 RISE=1 TARG V(fan_en) VAL=2.5 FALL=1
.meas TRAN raw_ripple_pp PP V(sensor_raw) FROM=20m TO=25m
.meas TRAN filtered_ripple_pp PP V(sense) FROM=20m TO=25m
.end
